US04169108
A mixture of 24.0 g. of 6,7-dimethoxy-8-methyl-2-naphthaleneacetic acid and 30 ml. of thionyl chloride in 250 ml. of benzene was kept at 40° C. one hour and then overnight at room temperature. The reaction mixture was then evaporated to dryness in vacuo at 50° C. Additional benzene was added and evaporation repeated to give 6,7-dimethoxy-8-methyl-2-naphthaleneacetyl chloride. An infrared spectrum indicated no remaining carboxylic acid and this material was used directly in the preparation of 6,7-dimethoxy-8-methyl-2-naphthaleneacetamide as described hereinabove in Example 98.

reactant | 6,7-dimethoxy-8-methyl-2-naphthaleneacetic acid | COC=1C=C2C=CC(=CC2=C(C1OC)C)CC(=O)O | C15H16O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6,7-dimethoxy-8-methyl-2-naphthaleneacetyl chloride | COC=1C=C2C=CC(=CC2=C(C1OC)C)CC(=O)Cl | C15H15ClO3
